US04234594
2(1-methyl-5-pyrazolyl) amino-2-imidazoline hydrochloride
1-Acetyl-2(1-methyl-5-pyrazolyl)amino-2-imidazoline (37.4 g.) was treated with HCl in methanol as described in Example II to give 25.9 g. product mp 204-208 which was converted to the hydrochloride salt mp 187°-189°.

reactant | 1-Acetyl-2(1-methyl-5-pyrazolyl)amino-2-imidazoline | 37.4 g | C(C)(=O)N1C(=NCC1)NC1=CC=NN1C | C9H13N5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 2(1-methyl-5-pyrazolyl) amino-2-imidazoline hydrochloride | Cl.CN1N=CC=C1NC=1NCCN1 | InChI=1S/C7H11N5.ClH/c1-12-6(2-3-10-12)11-7-8-4-5-9-7;/h2-3H,4-5H2,1H3,(H2,8,9,11);1H
